US07179823B1
A mixture of 1-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethyl]-3-phenyl-1H-pyrazol-4-ylmethanol (1.25 g), active manganese dioxide (3.00 g) and ethyl acetate (80 ml) was stirred at room temperature for 3 hours. After manganese dioxide was separated by filtration, the filtrate was concentrated. The residue was subjected to silica gel column chromatography to obtain 1-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethyl]-3-phenyl-1H-pyrazole-4-carboaldehyde (1.20 g, yield 96%) as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:1, volume ratio).

reactant | 1-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethyl]-3-phenyl-1H-pyrazol-4-ylmethanol | 1.25 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=N1)CN1N=C(C(=C1)CO)C1=CC=CC=C1 | C27H24N4O3
catalyst | manganese dioxide | 3.00 g | [O-2].[O-2].[Mn+4]
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
product | 1-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethyl]-3-phenyl-1H-pyrazole-4-carboaldehyde | 1.20 g, yield 96% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=N1)CN1N=C(C(=C1)C=O)C1=CC=CC=C1 | C27H22N4O3
